US06603008B1
(4-Bromo-2,6-dichlorophenoxy)(tert-butyl)dimethylsilane (Step 1)
To a solution of 4-bromo-2,6-dichlorophenol (11.9 g, 49.2 mmol, H. Joyce et al., J. Amer. Chem. Soc., 39, 2644 (1917)) in DMF (100 mL) imidazole (5.0 g, 74 mmol) and tert-butyldimethylsilylchloride (8.9 g, 59 mmol) was added at room temperature and the mixture was stirred for 1 h. The mixture was poured into water (300 mL) and extracted with diethyl ether (100 mL×2) and washed with water (50 mL×2), dried over MgSO4 and concentrated in vacuo gave pale yellow oil. (15.3 g, 87%)

reactant | 4-bromo-2,6-dichlorophenol | 49.2 mmol, 11.9 g | BrC1=CC(=C(C(=C1)Cl)O)Cl | C6H3BrCl2O
reactant | DMF | 74 mmol, 100 mL, 5.0 g | CN(C)C=O | C3H7NO
reactant | tert-butyldimethylsilylchloride | 59 mmol, 8.9 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | water | 300 mL | O | H2O
product | (4-Bromo-2,6-dichlorophenoxy)(tert-butyl)dimethylsilane | BrC1=CC(=C(O[Si](C)(C)C(C)(C)C)C(=C1)Cl)Cl | C12H17BrCl2OSi
